US07935699B2
A solution of (R)-3-((R)-8,8-dimethyl-6,10-dioxa-spiro[4.5]dec-2-yl)-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-2-(3-methyl-4-methylsulfanyl-phenyl)-propionamide (1.35 g, 2.57 mmol) in dioxane (14 mL) was treated with a 9 N aqueous sulfuric acid solution (8 mL). The resulting solution was then heated at 110° C. for 16 h. The reaction was then cooled and diluted with water (150 mL) and extracted with a chloroform/methanol solution (3:2, 2×50 mL) and then combined the organic extracts and concentrated. The resulting residue was then dissolved in acetonitrile and concentrated with silica gel (3 g) and purified on Biotage Flash chromatography system (40 L column, silica gel, 60% ethyl acetate/hexanes) to afford (R)-2-(3-methyl-4-methylsulfanyl-phenyl)-3-((R)-3-oxo-cyclopentyl)-propionic acid (674 mg, 90%) as a pale yellow gum: [α]28958−115.4° (c=0.35, methanol); ES-HRMS m/e calcd for C16H20O3S (M+Na)+ 315.1025, observed 315.1025; 1H NMR (300 MHz, DMSO-d6) δ 1.46 (m, 1H, CH), 1.76-2.32 (m, 8H, 4×CH2), 2.22 (s, 3H, ArCH3), 2.44 (s, 3H, SCH3), 3.48 (m, 1H, ArCHCO), 7.14 (m, 3H, Ar), 12.31 (s, 1H, CO2H).

reactant | (R)-3-((R)-8,8-dimethyl-6,10-dioxa-spiro[4.5]dec-2-yl)-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-2-(3-methyl-4-methylsulfanyl-phenyl)-propionamide | 2.57 mmol, 1.35 g | CC1(COC2(CC[C@@H](C2)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C2=CC=CC=C2)O)C)C2=CC(=C(C=C2)SC)C)OC1)C | C31H43NO4S
reactant | sulfuric acid | 9 N, 8 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
solvent | water | 150 mL | O | H2O
product | (R)-2-(3-methyl-4-methylsulfanyl-phenyl)-3-((R)-3-oxo-cyclopentyl)-propionic acid | 674 mg, 90% | CC=1C=C(C=CC1SC)[C@H](C(=O)O)C[C@@H]1CC(CC1)=O | C16H20O3S
